US07074837B2
(2S)-2-[1-(Diethoxymethyl)cyclopropyl]-2-{[(1S)-1-phenylethyl]amino}acetonitrile
Triethyl orthoformate (0.2 mL, 1.20 mmol) and p-toluenesulfonate monohydrate (1 mg, 0.0053 mmol) were added to an ethanol (2.5 mL) solution of 2-(1-formylcyclopropyl)-2-{[(1S)-1-phenylethyl]amino}acetonitrile (102 mg, 0.447 mmol). The resulting mixture was stirred at room temperature for 2 hours and 30 minutes and then, at 50° C. for 4 hours. After cooling to room temperature, a saturated aqueous solution of sodium bicarbonate was added, followed by extraction with ethyl acetate. The organic layer was washed with water and then, dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by column chromatography, whereby the title compound was obtained as white crystals (40 mg, 30%, diastereomer ratio=81/19).

reactant | Triethyl orthoformate | 1.20 mmol, 0.2 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | p-toluenesulfonate monohydrate | 0.0053 mmol, 1 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 2-(1-formylcyclopropyl)-2-{[(1S)-1-phenylethyl]amino}acetonitrile | 0.447 mmol, 102 mg | C(=O)C1(CC1)C(C#N)N[C@@H](C)C1=CC=CC=C1 | C14H16N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
product | (2S)-2-[1-(Diethoxymethyl)cyclopropyl]-2-{[(1S)-1-phenylethyl]amino}acetonitrile | C(C)OC(C1(CC1)[C@@H](C#N)N[C@@H](C)C1=CC=CC=C1)OCC | C18H26N2O2
